US07371747B2
To a cold (0° C.) solution of triphenylphosphine (260 mg, 1.0 mmol) in dimethylformamide (1 mL) was added diisopropyl azodicarboxylate (180 μL, 0.9 mmol) and the reaction mixture was stirred at 0° C. for 10 min. A mixture of (1R/S,3R/S,6R/S)-ethyl 2-(hydroxymethyl)-5-methylcyclohexanecarboxylate and (1R/S,3S/R,6R/S)-ethyl 2-(hydroxymethyl)-5-methylcyclohexanecarboxylate (1:1 mixture, 160 mg, 0.8 mmol) and 4-fluorobenzenethiol (100 μL, 0.9 mmol) in dimethylformamide (1 mL) was added to the diisopropyl azodicarboxylate/triphenylphosphine mixture. The reaction mixture was warmed to room temperature and stirred for 3 h. Ether and brine were added and the aqueous layer was extracted with ether. The combined organic extracts were concentrated in vacuo and the residue was purified by flash chromatography over silica gel (ether/hexanes, 5/95) to afford the product (1R/S,3R/S,6R/S)-ethyl 2-{[(4-fluorophenyl)sulfanyl]methyl}-5-methylcyclohexanecarboxylate and (1R/S,3S/R,6R/S)-ethyl 2-{[(4-fluorophenyl)sulfanyl]methyl}-5-methylcyclohexane-carboxylate as a 1:1 mixture of diastereomers.

reactant | triphenylphosphine | 1.0 mmol, 260 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.9 mmol, 180 μL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | ethyl 2-(hydroxymethyl)-5-methylcyclohexanecarboxylate | 0.8 mmol, 160 mg | OCC1C(CC(CC1)C)C(=O)OCC | C11H20O3
reactant | 4-fluorobenzenethiol | 0.9 mmol, 100 μL | FC1=CC=C(C=C1)S | C6H5FS
reactant | diisopropyl azodicarboxylate triphenylphosphine | N(=NC(=O)OC(C)C)C(=O)OC(C)C.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
solvent | Ether | CCOCC | C4H10O
product | ethyl 2-{[(4-fluorophenyl)sulfanyl]methyl}-5-methylcyclohexane-carboxylate | FC1=CC=C(C=C1)SCC1C(CC(CC1)C)C(=O)OCC | C17H23FO2S
